US07405233B2
SYNTHESIS OF 3-[3-(4-TERT-BUTYLPHENYL)-2,5-DIOXO-IMIDAZOLIDIN-1-YL]-BENZOIC ACID (COMPOUND 28)
A solution of benzyl-N-(4-tert-butylphenyl)glycine (1.20 g, 4.04 mmol), 3-aminobenzoic acid (0.55 g, 4.01 mmol) and diphenylcarbonate (0.87 g, 4.06 mmol) in cresol (4 mL) was heated to reflux for 5 h. The mixture was cooled, poured into 20 mL diethyl ether, and filtered. The solid product as named in the title was dried under vacuum (1.10 g, 3.12 mmol, 78%). m.p. 256-258° C. 1H NMR (d6-DMSO, 300 MHz): δ 8.01 (1H, t, J=2 Hz), 7.98 (1H, dt, J=8, 2 Hz), 7.70-7.62 (2H, m), 7.60 (2H, d, J=8 Hz), 7.43 (2H, d, J=8 Hz), 4.60 (2H, s), 1.28 (9H, s). Mass spectrum (ES+): m/z 354 (23), 353 (100). Elemental analysis: calculated for C20H20N2O4 C 68.07, H 5.85, N 7.61; observed C 68.17, H 5.72, N 7.95.

reactant | benzyl-N-(4-tert-butylphenyl)glycine | 4.04 mmol, 1.20 g | C(C1=CC=CC=C1)N(CC(=O)O)C1=CC=C(C=C1)C(C)(C)C | C19H23NO2
reactant | 3-aminobenzoic acid | 4.01 mmol, 0.55 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | diphenylcarbonate | 4.06 mmol, 0.87 g | C1(=CC=CC=C1)OC(OC1=CC=CC=C1)=O | C13H10O3
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | cresol | 4 mL | C1(=CC=CC=C1O)C | C7H8O
product | 3-[3-(4-TERT-BUTYLPHENYL)-2,5-DIOXO-IMIDAZOLIDIN-1-YL]-BENZOIC ACID | C(C)(C)(C)C1=CC=C(C=C1)N1C(N(C(C1)=O)C=1C=C(C(=O)O)C=CC1)=O | C20H20N2O4
